US08703953B2
To a solution of tert-butyl((2S)-1-((9-cyano-5-methyl-5H-chromeno[3,4-c]pyridin-8-yl)oxy)-4-methylpentan-2-yl)carbamate (15 mg, 0.034 mmol) in dichloromethane (2 mL) cooled to 0° C. was added HCl, 4M in dioxane (1.0 mL, 4.00 mmol) slowly over a period of 1 min. The reaction mixture was stirred at 0° C. for 5 min and then warmed to room temperature and allowed to stir for 2 h. The solvents were removed under reduced pressure and the crude material was washed with 5% methanol in ethyl acetate to afford 8-(((S)-2-amino-4-methylpentyl)oxy)-5-methyl-5H-chromeno[3,4-c]pyridine-9-carbonitrile (9 mg, 0.025 mmol, 73% yield) as a yellow solid. 1H NMR (400 MHz, MeOD) δ 8.74 (bs, 2 H), 8.58 (s, 1 H), 8.34 (d, J=6 Hz, 1 H), 7.01 (s, 1 H), 5.74 (t, J=6.4 Hz, 1 H), 4.48 (m, 1 H), 4.33 (m, 1 H), 3.78 (m, 1 H), 1.82-1.68 (m, 6 H), 1.06 (m, 6 H). LCMS (ESI) m/e 338.2 [(M+H)+, calcd for C20H24N3O2 338.2] LC/MS retention time (method D): tR=1.17 min. HPLC retention time (method A): tR=7.97 min and 8.03 min (diastereomeric mixture); HPLC retention time (method B): tR=8.77 min (peaks overlapped).

reactant | tert-butyl((2S)-1-((9-cyano-5-methyl-5H-chromeno[3,4-c]pyridin-8-yl)oxy)-4-methylpentan-2-yl)carbamate | 0.034 mmol, 15 mg | C(C)(C)(C)OC(N[C@H](COC=1C(=CC2=C(C1)OC(C1=CN=CC=C12)C)C#N)CC(C)C)=O | C25H31N3O4
reactant | HCl | Cl | ClH
reactant | dioxane | 4.00 mmol, 1.0 mL | O1CCOCC1 | C4H8O2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 8-(((S)-2-amino-4-methylpentyl)oxy)-5-methyl-5H-chromeno[3,4-c]pyridine-9-carbonitrile | 0.025 mmol, 9 mg, 73% yield | N[C@H](COC=1C(=CC2=C(C1)OC(C1=CN=CC=C12)C)C#N)CC(C)C | C20H23N3O2
